US07071175B1
2-(6-tert-butoxycarbonylamino-pyridin-3-ylmethyl)-acrylic acid ethyl ester (0.49 g, 1.60 mmol) and triethylamine (0.17 g, 1.64 mmol) were added to thioacetic acid (3 mL) at 0° C. The mixture was stirred at room temperature for 6 h. The mixture was poured onto ice-water and extracted with CH2Cl2. The organic phase was washed with saturated NaHCO3 and dried. The crude product was purified by flash chromatography (MeOH/CH2Cl2, 2.5:100) to give 2-acetylsulfanylmethyl-3-(6-tert-butoxycarbonylamino-pyridin-3-yl)-propionic acid ethyl ester (0.36 g, 61%).

reactant | 2-(6-tert-butoxycarbonylamino-pyridin-3-ylmethyl)-acrylic acid ethyl ester | 1.60 mmol, 0.49 g | C(C)OC(C(=C)CC=1C=NC(=CC1)NC(=O)OC(C)(C)C)=O | C16H22N2O4
reactant | triethylamine | 1.64 mmol, 0.17 g | C(C)N(CC)CC | C6H15N
reactant | thioacetic acid | 3 mL | C(C)(=S)O | C2H4OS
product | 2-acetylsulfanylmethyl-3-(6-tert-butoxycarbonylamino-pyridin-3-yl)-propionic acid ethyl ester | 0.36 g, 61% | C(C)OC(C(CC=1C=NC(=CC1)NC(=O)OC(C)(C)C)CSC(C)=O)=O | C18H26N2O5S
